US05286902
A solution of 1.22 g 2-methoxy-6-(1-hydroxy-1-methylethyl)naphthalene in 25 ml hexamethylphosphoramide (HMPA) was heated to 240° C. for 15 minutes. The solution was cooled, poured into water, and the brown solid which had formed was filtered off and washed with isopropanol. Recrystallization of the brown solid from isopropanol gave 2-methoxy-6-isopropenylnaphthalene, mp 101° to 103 5° C.

reactant | 2-methoxy-6-(1-hydroxy-1-methylethyl)naphthalene | 1.22 g | COC1=CC2=CC=C(C=C2C=C1)C(C)(C)O | C14H16O2
reactant | water | O | H2O
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-methoxy-6-isopropenylnaphthalene | COC1=CC2=CC=C(C=C2C=C1)C(=C)C | C14H14O
